US08975254B2
d) 3-(Furan-2-yl)-N-(2-(3-(2-methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-5-carboxamide
The title compound was prepared from 2-(3-(2-Methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethanamine (0.11 g) and 3-(furan-2-yl)-1H-pyrazole-5-carboxylic acid (0.079 g) using the method of Example 34(d). Yield 0.11 g. 1H-NMR (400 MHz; d6-DMSO): δ 3.71 (t, 2H), 4.01 (s, 3H), 4.39 (t, 2H), 6.57-6.68 (m, 2H), 6.85-6.89 (m, 2H), 7.76-7.93 (m, 4H), 8.15-8.22 (m, 1H), 8.53 (br s, 1H), 13.71 (br s, 1H).

reactant | 2-(3-(2-Methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethanamine | 0.11 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=NN(C=C1)CCN | C12H14N4O3
reactant | 3-(furan-2-yl)-1H-pyrazole-5-carboxylic acid | 0.079 g | O1C(=CC=C1)C1=NNC(=C1)C(=O)O | C8H6N2O3
product | 3-(Furan-2-yl)-N-(2-(3-(2-methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-5-carboxamide | O1C(=CC=C1)C1=NNC(=C1)C(=O)NCCN1N=C(C=C1)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C20H18N6O5
